US09108944B2
A mixture of 3-chloro-6-hydrazinylpyridazine (3.3 g, 22.8 mmol) in TFA (60 mL) was heated to 85° C. for 18 h. The reaction mixture was cooled to room temperature and TFA was removed in vacuo. The residue was partitioned between DCM and saturated aqueous sodium bicarbonate and the organic layer was washed with a saturated solution of sodium bicarbonate (3×), dried over sodium sulfate, and evaporated to dryness to afford 2.8 g of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine as a beige solid. 1H NMR (300 MHz, DMSO-d6) δ 8.72 (d, 1H), 7.78 (d, 1H).

reactant | 3-chloro-6-hydrazinylpyridazine | 22.8 mmol, 3.3 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | TFA | 60 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 2.8 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
